US08334382B2
5. [2-(6-{4-[6-(3-Chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-yloxy)-ethyl]-dimethyl-amine
To a cooled mixture of (2-chloro-ethyl)-dimethyl-amine hydrochloride (116 mg, 0.81 mmol) in DMF, add Cs2CO3 (526 mg, 1.62 mmol) and stir at 0° C. for 30 min. Add 6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-ol (78 mg, 0.16 mmol) and NaI (29 mg, 0.16 mmol). Stir the mixture at room temperature for 1 h and then for 2 h at 45° C. Partition between EtOAc and water. Wash with brine, dry the solution (Na2SO4), and concentrate under reduced pressure. Purify the residue by flash column chromatography eluting with DCM:MeOH:NH4OH (90:10:1) to afford the title compound. 1H NMR (300 MHz, CDCl3): δ1.29 (t, 3H, J=6.3 Hz, CH3); 1.69 (m, 1H, CH2CH2); 1.91 (m, 1H, CH2CH2); 2.05 (m, 2H, CH2CH2); 2.32 (s, 3H, Ar—CH3); 2.33 (s, 6H, N(CH3)2); 2.71 (t, J=5.7 Hz, 2H); 3.13 (m, 4H); 3.64 (m, 4H); 3.80 (m, 4H); 4.06 (t, J=5.7 Hz, 2H); 4.34 (m, 1H); 6.25 (s, 1H, Ar—H); 7.10 (d, J=2.7 Hz, 1H); 7.18 (m, 1H); 7.89 (m, 2H); 8.04 (m, 1H).

reactant | (2-chloro-ethyl)-dimethyl-amine hydrochloride | 0.81 mmol, 116 mg | Cl.ClCCN(C)C
reactant | Cs2CO3 | 1.62 mmol, 526 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-{4-[6-(3-chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-ol | 0.16 mmol, 78 mg | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1C(CCC1)C)N1CCN(CC1)C1=C(C=C(C=N1)O)C | C25H28ClFN6O
reactant | NaI | 0.16 mmol, 29 mg | [Na+].[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | [2-(6-{4-[6-(3-Chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-yloxy)-ethyl]-dimethyl-amine | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1C(CCC1)C)N1CCN(CC1)C1=C(C=C(C=N1)OCCN(C)C)C | C29H37ClFN7O
